US07470716B2
1-ethoxycarbonylmethyl-1-(but-2-ynyl)-3-cyano-2-phenyl-isourea
11 ml but-2-ynylbromide are added to a mixture of 30.2 g 1-ethoxycarbonylmethyl-3-cyano-2-phenyl-isourea and 20.0 g potassium carbonate in 200 ml acetone. After 1 d (day) stirring at ambient temperature a further 6.5 g potassium carbonate and 3.5 ml but-2-ynylbromide are added. After another 20 h at ambient temperature the solvent is removed and ethyl acetate is added. The organic phase is washed with water, dried over sodium sulphate and evaporated to dryness.

reactant | but-2-ynylbromide | 11 ml | C(C#CC)Br | C4H5Br
reactant | 1-ethoxycarbonylmethyl-3-cyano-2-phenyl-isourea | 30.2 g | C(C)OC(=O)CNC(OC1=CC=CC=C1)=NC#N | C12H13N3O3
reactant | potassium carbonate | 20.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | but-2-ynylbromide | 3.5 ml | C(C#CC)Br | C4H5Br
solvent | acetone | 200 ml | CC(=O)C | C3H6O
product | 1-ethoxycarbonylmethyl-1-(but-2-ynyl)-3-cyano-2-phenyl-isourea | C(C)OC(=O)CN(C(OC1=CC=CC=C1)=NC#N)CC#CC | C16H17N3O3
